US05852017
a) 4-Chloro-N-(2,2-dimethylpropyl)-2-nitroaniline
57.6 g (0.3 mol) of 2,5-dichloronitrobenzene, 26.2 g (0.3 mol) of 2,2-dimethylpropylamine, 82.9 g (0.6 mol) of potassium carbonate and 0.5 g of sodium iodide in 400 ml of dimethylformamide were heated at 80° C. for 10 h. The mixture was then added to a large amount of water and extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (mobile phase: petroleum ether/toluene=16/1) to yield 32.3 g (50%) of the product. Melting point 78° C.

reactant | 2,5-dichloronitrobenzene | 0.3 mol, 57.6 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 2,2-dimethylpropylamine | 0.3 mol, 26.2 g | CC(CN)(C)C | C5H13N
reactant | potassium carbonate | 0.6 mol, 82.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
catalyst | sodium iodide | 0.5 g | [I-].[Na+]
product | 4-Chloro-N-(2,2-dimethylpropyl)-2-nitroaniline | 32.3 g, 50% | ClC1=CC(=C(NCC(C)(C)C)C=C1)[N+](=O)[O-] | C11H15ClN2O2
